US07294631B2
1.6 2-Amino-1,3,9-triaza-spiro[5.5]undec-2-ene-9-carboxylic acid ethyl ester hydrobromide (1:1)
To a solution of 15.65 g (54.33 mmol) of 4-amino-4-(2-amino-ethyl)-piperidine-1-carboxylic acid ethyl ester hydrochloride (2:1) in 108 ml of methanol was added 21.73 ml (114.09 mmol) of a solution of sodium methoxide in methanol (5.55 N). The mixture was stirred at room temperature for 2 h. The precipitate was filtered and the filtrate was evaporated. The crude was dissolved in 108 ml of water and 5.75 g (54.33 mmol) of cyanogen bromide was added portion wise. The resulting mixture was stirred at room temperature for 16 h, evaporated to dryness, dissolved in ethanol and evaporated to dryness to give 17.56 g of pure compound as a brown solid.

reactant | 4-amino-4-(2-amino-ethyl)-piperidine-1-carboxylic acid ethyl ester hydrochloride | 54.33 mmol, 15.65 g | Cl.C(C)OC(=O)N1CCC(CC1)(CCN)N
reactant | sodium methoxide | C[O-].[Na+]
reactant | cyanogen bromide | 54.33 mmol, 5.75 g | N#CBr | CBrN
solvent | methanol | 108 ml | CO | CH4O
solvent | methanol | 5.55 N | CO | CH4O
product | 2-Amino-1,3,9-triaza-spiro[5.5]undec-2-ene-9-carboxylic acid ethyl ester hydrobromide | 17.56 g | Br.C(C)OC(=O)N1CCC2(CCN=C(N2)N)CC1 | InChI=1S/C11H20N4O2.BrH/c1-2-17-10(16)15-7-4-11(5-8-15)3-6-13-9(12)14-11;/h2-8H2,1H3,(H3,12,13,14);1H
